US09238639B2
G) Methyl(4-chloro-7-fluoro-6-hydroxy-1-benzothiophen-3-yl)acetate
To a mixture of methyl(4-chloro-7-fluoro-6-methoxy-1-benzothiophen-3-yl)acetate (284.8 mg) and DMF (dry) (8.0 mL) was added sodium 2-methyl-2-propanethiolate (443 mg). The mixture was stirred at 160° C. for 45 min. After cooling, the mixture was diluted with water and 1N HCl and extracted with EtOAc. The organic layer was washed successively with water and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was dissolved in MeOH (6.0 mL). To the solution was added conc. H2SO4 (0.100 mL). The mixture was stirred at 70° C. for 1 h. The mixture was concentrated. The residue was neutralized with saturated aqueous NaHCO3, and the mixture was extracted with EtOAc. The combined organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residual solid was washed with toluene and hexane to give the title compound (229.3 mg).

reactant | methyl(4-chloro-7-fluoro-6-methoxy-1-benzothiophen-3-yl)acetate | 284.8 mg | COC(CC1=CSC2=C1C(=CC(=C2F)OC)Cl)=O | C12H10ClFO3S
reactant | DMF | 8.0 mL | CN(C)C=O | C3H7NO
reactant | sodium 2-methyl-2-propanethiolate | 443 mg | CC(C)(C)[S-].[Na+]
solvent | water | O | H2O
solvent | HCl | 1N | Cl | ClH
product | Methyl(4-chloro-7-fluoro-6-hydroxy-1-benzothiophen-3-yl)acetate | 229.3 mg | COC(CC1=CSC2=C1C(=CC(=C2F)O)Cl)=O | C11H8ClFO3S
